US07534914B2
STEP 1. 3-Chlorofuro[3,4-b]pyridin-5 (7H)-one
A mixture of crude methyl 5-chloro-2-methylnicotinate 1-oxide (Organic letters, 2001, 3, 209, 2.29 mmol) and trifluoroacetic acid (453 μL, 3.21 mmol) in dichloromethane (20 mL) was stirred at room temperature for 2 days and heated at 45° C. for 1 hour. The mixture was partitioned between sat. aqueous sodium hydrogen carbonate (50 mL) and ethyl acetate (50 mL). The organic layer was washed with brine (50 mL), dried (sodium sulfate), and evaporated. The residue was purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (1/1) to afford 225 mg of the title compound.

reactant | methyl 5-chloro-2-methylnicotinate 1-oxide | 2.29 mmol | ClC=1C=[N+](C(=C(C(=O)OC)C1)C)[O-] | C8H8ClNO3
reactant | trifluoroacetic acid | 3.21 mmol, 453 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-Chlorofuro[3,4-b]pyridin-5 (7H)-one | 225 mg | ClC=1C=C2C(=NC1)COC2=O | C7H4ClNO2
